Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Pleuritic Pain  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old gentleman who is presenting with persistent 
pleuritic pain in the context of a recent diagnosis of 
pericarditis three weeks ago. He also has a 2 week history of 
fevers, night sweats, and lethargy. Currently the patient is 
pain free laying in bed but pain returns with deep inspiration 
during exam. He had an episode of night sweats last night. He 
was in afib with RVR last night but denies having any previous 
history. No TB risk factors. No tick bites. No rash. Per his 
PCP, he was started on ibuprofen 600 qid on ___ with minimal 
improvement in symptoms. He's had myalgias and mild dry cough 
for past few days only. No weight loss. 
.
REVIEW OF SYSTEMS  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, hemoptysis, black stools or red stools. He 
denies exertional buttock or calf pain. All of the other review 
of systems were negative.  
.  
Cardiac review of systems is notable for absence of ankle edema, 
palpitations, syncope or presyncope. 
 
Past Medical History:
HTN  
Hyperlipidemia  
BPH  
Erectile dysfunction  
 
Social History:
___
Family History:
Daughter-type 1 diabetes  
 
Physical Exam:
On Admission:
VS: 99.2 ___ 16
Gen: Pleasant, Caucasian male in no apparent distress  
Cardiac: Friction rub apparent on inspiration, no murmurs  
Pulm: clear bilaterally throughout  
Abd: obese, but otherwise contender with no palpable masses  
Ext: no edema notable  
 
Pertinent Results:
___ 08:35PM BLOOD WBC-6.3 RBC-3.63* Hgb-10.4* Hct-30.9* 
MCV-85 MCH-28.6 MCHC-33.6 RDW-11.4 Plt ___
___ 06:11AM BLOOD WBC-5.8 RBC-3.44* Hgb-10.0* Hct-29.7* 
MCV-86 MCH-29.2 MCHC-33.8 RDW-11.4 Plt ___
___ 08:35PM BLOOD Neuts-78.7* Lymphs-14.1* Monos-6.1 
Eos-0.8 Baso-0.3
___ 06:11AM BLOOD Neuts-72.8* Lymphs-17.5* Monos-8.1 
Eos-1.5 Baso-0.1
___ 06:11AM BLOOD ___ PTT-27.1 ___
___ 03:15PM BLOOD ESR-88*
___ 06:11AM BLOOD Ret Aut-1.3
___ 06:11AM BLOOD Glucose-105* UreaN-15 Creat-1.0 Na-139 
K-4.5 Cl-102 HCO3-29 AnGap-13
___ 03:15PM BLOOD ALT-32 AST-26 AlkPhos-78 TotBili-0.4
___ 08:35PM BLOOD LD(LDH)-242
___ 06:11AM BLOOD Calcium-8.8 Phos-4.3 Mg-2.4
___ 08:35PM BLOOD Iron-23*
___ 08:35PM BLOOD calTIBC-212* Ferritn-1038* TRF-163*
___ 08:35PM BLOOD TSH-0.48
___ 08:35PM BLOOD RheuFac-PND
.
CT Chest ___: Diffuse pericardial enhancement + small 
effusion c/w pericarditis- etiology thought to be viral per 
discussion w/ MD. ___ reactive lymph nodes. Scattered 
areas of subpleural scarring/nodularity. Nonspecific hepatic 
hypodensities.  
.  
2d Echo ___: The left atrium is mildly dilated. The right 
atrium is moderately dilated. Left ventricular wall thicknesses 
and cavity size are normal. Left ventricular systolic function 
is hyperdynamic (EF>75%). Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No masses or vegetations are seen on the aortic valve. 
There is no valvular aortic stenosis. The increased transaortic 
velocity is likely related to high cardiac output. No aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. No mass or vegetation is seen on the mitral 
valve. Physiologic mitral regurgitation is seen (within normal 
limits). There is moderate pulmonary artery systolic 
hypertension. There is a small pericardial effusion.  
IMPRESSION: No evidence of endocarditis. Hyperdynamic left 
ventricular function. Normal valvular function. Small 
pericardial effusion. Moderate pulmonary hypertension.  
.  
EKG: T wave inversions noted V1-V5  

 
Brief Hospital Course:
Primary Reason for Hospitalization:
===================================
Mr. ___ is a ___ year old male with three weeks of persistent 
pleuritic chest pain, fevers over 1 week, night sweats, T wave 
inversions on EKG all consistent with pericarditis.
.
# Pericarditis - there was little in the patient's history or 
exam to suggest a specific diagnosis. Most cases of idiopathic 
pericarditis resolve within 1 week of NSAID therapy however 
NSAIDs were initiated 2 weeks after diagnosis and patient has 
had only 4 days of therapy. He was instructed to take ibuprofen 
for one additional week and ___ with his primary care 
provider. If no improvement in symptoms and nothing remarkable 
in workup then could consider adding colchicine. Many lab tests 
were sent prior to discharge with most results still pending. 
The patient will ___ with his primary care provider in one 
week and results should be followed-up by PCP at that time.  
.  
# Normocytic Anemia - Most likely this is secondary to 
inflammation (ESR was 88 and CRP 101.3) and iron studies 
consistent with AOCD. Had normal colonoscopy in ___. This 
should be followed for resolution as outpatient. 
.  
Hypertension - Continue lisinopril  
.  
Hyperlipidemia - Continue simvastatin  
.  
BPH - Continue flomax  
.
TRANSITIONAL ISSUES:
--------------------
- Labs pending at the time of discharge: TSH, RPR, HIV, Lyme 
serologies, ___, ANCA, RF, LDH, Histoplasmosis urine antigen, 
blood cultures
- PCP should ___ on labs above and discuss any pertinent 
results with patient
- Patient needs to have PPD 
 
Medications on Admission:
1. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. simvastatin 20 mg Tablet Sig: One (1) Tablet PO at bedtime.  
3. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
4. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
5. ibuprofen 600 mg ___ times daily with food
 
Discharge Medications:
1. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. simvastatin 20 mg Tablet Sig: One (1) Tablet PO at bedtime.  
3. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
4. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
5. ibuprofen 400 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
- Pericarditis
- Fever of Unknown Origin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, it was a pleasure taking care of you here at ___.

You were admitted because you were having fevers and chest pain 
from your pericarditis. An ultra-sound of your heart (an 
echocardiogram) was performed which showed a small amount of 
fluid around your heart (a pericardial effusion). Most cases of 
pericarditis are caused by viruses and slowly get better on 
their own after several weeks. We sent some tests for other 
causes of pericarditis that would require treatment. Many of 
these tests take time to process therefore you will be able to 
obtain the results when you see your primary care doctor next 
week. 

No changes were made to your medications. You should continue 
taking ibuprofen as you have been doing for 1 more week. If your 
chest pains do not improve after that you should call your 
doctor.
 
Followup Instructions:
___